US07521462B2
Slowly add n-butyllithium (2.5 M in hexanes, 44.0 mL, 110 mmol) to a stirred solution of 2,4-dichloro-5-[1,3]dioxolan-2-yl-thiazole (19.33 g, 85.5 mmol) and anhydrous tetrahydrofuran (400 mL) at −78° C. under nitrogen. Stir for 1.5 h at −78° C. and then quench with water and pour the reaction into brine (300 mL). Extract with ethyl acetate (3×200 mL), dry over sodium sulfate, and filter off the sodium sulfate. Concentrate on a rotary evaporator and purify the crude product by flash chromatography on silica gel eluting with 25% ethyl acetate/hexanes to yield 15.27 g (93%) of 4-chloro-5-[1,3]dioxolan-2-yl-thiazole: mass spectrum (ion spray): m/z=192.0 (M+1); 1H NMR (CDCl3): δ=8.75 (s, 1H), 6.18 (s, 1H), 4.22-4.04 (m, 4H).

reactant | n-butyllithium | 110 mmol, 2.5 M, 44.0 mL | C(CCC)[Li]
reactant | 2,4-dichloro-5-[1,3]dioxolan-2-yl-thiazole | 85.5 mmol, 19.33 g | ClC=1SC(=C(N1)Cl)C1OCCO1 | C6H5Cl2NO2S
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 4-chloro-5-[1,3]dioxolan-2-yl-thiazole | 15.27 g, 93% | ClC=1N=CSC1C1OCCO1 | C6H6ClNO2S
